US07091237B2
ethyl[2-(trifluoromethyl)phenoxy]acetate
A mixture of 2-trifluoromethylphenol (1.62 g) in anhydrous acetonitrile was treated with cesium carbonate (3.25 g) and ethyl bromoacetate (1.75 g) and the reaction mixture stirred at room temperature for 2 hours. The reaction mixture was diluted with water and ethyl acetate and the organic layer washed with water and dried with brine and over sodium sulfate. Evaporation of ethyl acetate gave the title compound as a colourless oil.

reactant | 2-trifluoromethylphenol | 1.62 g | FC(C1=C(C=CC=C1)O)(F)F | C7H5F3O
reactant | cesium carbonate | 3.25 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl bromoacetate | 1.75 g | BrCC(=O)OCC | C4H7BrO2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl[2-(trifluoromethyl)phenoxy]acetate | C(C)OC(COC1=C(C=CC=C1)C(F)(F)F)=O | C11H11F3O3
